US04145347
From 7.0 g. of methyl 2-oxo-4-phenyl-1-pyrrolidineacetate and 5.0 g of 2-(diethylamino)ethylamine, following the procedure of Example 1, there is obtained N-[2-(diethylamino)ethyl]-2-oxo-4-phenyl-1-pyrrolidineacetamide in pure form as an oil, without need for distillation.

reactant | methyl 2-oxo-4-phenyl-1-pyrrolidineacetate | O=C1N(CC(C1)C1=CC=CC=C1)CC(=O)OC | C13H15NO3
reactant | 2-(diethylamino)ethylamine | 5.0 g | C(C)N(CCN)CC | C6H16N2
product | N-[2-(diethylamino)ethyl]-2-oxo-4-phenyl-1-pyrrolidineacetamide | C(C)N(CCNC(CN1C(CC(C1)C1=CC=CC=C1)=O)=O)CC | C18H27N3O2
